US06080752
3-(2-Propenyl)-2-tetralone Ethylene Ketal
A mixture of 3-(2-propenyl)-2-tetralone (25.9 g, 139 mmol), trimethyl orthoformate (61.3 ml, 554 mmol), ethanediol (57.5 ml, 1.03 mol), p-toluenesulfonic acid monohydrate (0.27 mg, 1.4 mmol) in dichloromethane (650 ml) was stirred at room temperature, under argon for 2 h. Resulting mixture was partitioned between saturated aqueous sodium bicarbonate (1000 ml) and dichloromethane (3×500 ml). The combined organic extracts were washed with brine (500 ml), dried (Na2SO4) and evaporated in vacuo to give a brown oil (34.9 g). Chromatography on silica using 0-10% ether-hexane gradient elution gave the title compound as a yellow oil (20.1 g, 63%).

reactant | 3-(2-propenyl)-2-tetralone | 139 mmol, 25.9 g | C(C=C)C1C(CC2=CC=CC=C2C1)=O | C13H14O
reactant | trimethyl orthoformate | 554 mmol, 61.3 ml | C(OC)(OC)OC | C4H10O3
reactant | ethanediol | 1.03 mol, 57.5 ml | C(C)(O)O | C2H6O2
solvent | dichloromethane | 650 ml | ClCCl | CH2Cl2
catalyst | p-toluenesulfonic acid monohydrate | 1.4 mmol, 0.27 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-(2-Propenyl)-2-tetralone Ethylene Ketal | 34.9 g | C1COC2(CC3=CC=CC=C3CC2CC=C)O1 | C15H18O2
